Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
none
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ ___ speaking, with h/o dementia living in senior 
apartment who presented with reported suicidal ideation. History 
is gathered mainly from reports as pt poor historian. Per EMS a 
family member at the scene stated that the pt was upset about 
breaking up with her boyfriend and has had increased depression. 
Tried to jump out of a window and family had to restrain her. 
EMS found her calm, cooperative, and smiling.  
.  
In the ED, initial VS: 98.1 64 160/75 20 99%. She was noted to 
only be oriented to person and needed a sitter for wandering 
off, but was pleasant and cooperative. Through interpreter in 
the ED, the only positive ROS was pain with urination. The ED 
housestaff spoke to the son who stated he's having a hard time 
taking care of her. Case management contacted in the ED -- 
because of her dementia she needs to have a guardian or HCP 
assigned before she can placed and requires admission in the 
meantime.  
.  
Psych saw the pt who noted her to be disoriented at baseline, 
unable to provide any history or details of what happened, no SI 
or HI; they note severe memory deficits and baseline is 
wandering and getting lost, unable to recall family, unable to 
feed or bathe self but can feed herself.  

 
Past Medical History:
- Dementia -> per husband patient has had this diagnosis for ___ 
 
years. She apparently does not remember family members names  
intermittently, she gets lost, has a history of falls, per notes 
with neuropsychologist Dr. ___ also has been having a long 
history of word finding-difficulty. According to her husband, 
her cognitive baseline is that she is alert & oriented to person 
only. She cannot dress or bathe herself but she can eat 
independently. She usually is talkative and understands commands 
and conversations.  
- Diabetes (Type 2)  
- Psoriasis  
- Hypertension  
- Depression  
- cholecystectomy  
- hysterectomy  
- Breast cancer status post lumpectomy, radiation, and CMF  
chemotherapy. This was stage I invasive mucinous carcinoma of  
the right breast diagnosed in ___.  

 

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSION EXAM:
98.2 134/82 72 20 98%RA  
Overweight elderly F, sleeping soundly but easily awoken, 
appears well, comfortable  
EOMI, no scleral icterus  
CTAB no w/c/r/r  
RRR without m/g  
Obese NT ND, benign  
No BLE edema, cyanasis, mottling,  
CN ___ grossly intact, speech normal, moving all extremities  

DISCHARGE EXAM:
97.2 121/51 79 16 99%
Overweight elderly F, sleeping soundly but easily awoken, 
appears well, comfortable  
EOMI, no scleral icterus  
CTAB no w/c/r/r  
RRR without m/g  
Obese NT ND, benign  
No BLE edema, cyanasis, mottling,  
CN ___ grossly intact, speech normal, moving all extremities 
 
Pertinent Results:
___ 09:48PM   WBC-8.7 RBC-3.95* HGB-11.4* HCT-33.9* MCV-86 
MCH-28.9 MCHC-33.6 RDW-14.5
___ 09:48PM   NEUTS-68.2 ___ MONOS-5.3 EOS-4.6* 
BASOS-1.2
___ 09:48PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:48PM   GLUCOSE-100 UREA N-26* CREAT-1.0 SODIUM-132* 
POTASSIUM-4.2 CHLORIDE-97 TOTAL CO2-24 ANION GAP-15
 
Brief Hospital Course:
PATIENT: ___ yo F history of dementia, HTN, DM2 who presents with 
failure to thrive, admitted for ~1 months awaiting guardianship 
papers and nursing home placement.
.
ACUTE ISSUES:
# Failure to thrive - Initially brought to the ED for question 
of suicidal ideation. Family members reported she tried to jump 
out the window. Further evaluation by psychiatry revealed 
worsening dementia and a lack of caregivers in the home. 
Patient's husband had recently moved back to ___, and 
she was unable to care for herself at home. Patient's son 
___ was contacted and agree to guardianship. Paperwork was 
filed with the courts and with approval of guardianship she was 
discharged to nursing home.
.
CHRONIC ISSUES:
# Dementia - continued on home memantine in the hospital. 
Consistently alert but not oriented. Spent most of her time 
walking around the unit. Easily re-directable. Not agitated. 
There was a question of whether she was taking exelon at home, 
this was not given during her hospitalization. 
.
# Diabetes type II - It was confirmed through her pharmacy that 
she was taking metformin 1000mg BID. This was held during her 
hospital stay and instead she was maintained on an insulin 
sliding scale. At discharge, her metformin will be restarted. 
.
# Hypertension - We continued on home regimen of amlopidine, 
HTCZ, and lisinopril. Atenolol was held given good BP control.

 
Medications on Admission:
Confirmed with her pharmacy: 
ferrous sulfate 325 daily
multivit
namenda 10 mg BID
HCTZ 25 mg daily
lisinopril 20 mg daily
lipitor 20 mg daily
metformin 1 gm BID
amlodipine 5 mg daily
atenolol 50 daily

 
Discharge Medications:
1. memantine 10 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
5. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. metformin 500 mg Tablet Sig: Two (2) Tablet PO twice a day.  
7. amlodipine 5 mg Tablet Sig: One (1) Tablet PO once a day.  
8. aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day.  
9. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO once a 
day as needed for constipation.  
10. senna 8.6 mg Capsule Sig: One (1) Capsule PO once a day as 
needed for constipation.  
11. ferrous sulfate 325 mg (65 mg iron) Tablet Sig: One (1) 
Tablet PO once a day.  
12. Tylenol ___ mg Tablet Sig: ___ Tablets PO four times a day 
as needed for pain.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
- Dementia

SECONDARY DIAGNOSES:
- Diabetes (Type 2)  
- Psoriasis  
- Hypertension  
- Depression  
- Cholecystectomy  
- Hysterectomy  
- Breast cancer status post lumpectomy, radiation, and CMF  
chemotherapy. This was stage I invasive mucinous carcinoma of  
the right breast diagnosed in ___.  

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to participate in Ms. ___ care while she 
was in the hospital.  She was admitted to the hospital after her 
family had some concerns about her behavior.  According to her 
family, she had been trying to jump out of a window.  Our 
psychiatry team evaluated Ms. ___ upon her presentation and 
determined that she was not suicidal.  It was thought that her 
concerning behavior represented confusion due to her dementia.  
Ms. ___ primary caretaker was her boyfriend, but he recently 
moved back to ___.  Ms. ___ is unable to care for 
herself without the assistance of others.  Prior to this 
hospitalization, she did not have a guardian. Her son ___ 
agreed to be her guardian and paperwork for guardianship was 
processed.

 
Followup Instructions:
___